US08471005B2
To a solution of 6-(3-methoxy-4-nitro-phenyl)-7-oxa-3-aza-bicyclo[4.1.0]heptane-3-carboxylic acid tert-butyl ester (190 mg, 0.542 mmol) in methanol (10.00 mL) was added palladium on carbon 10% (40.00 mg), and the mixture was shaken in a Parr apparatus under an atmosphere of hydrogen (35 PSI) for 2 h. Filtration through Celite and evaporation of the solvent provided crude (±)-(3R,4S)-4-(4-amino-3-methoxy-phenyl)-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (173 mg, 99%), which was used without further purification.

reactant | 6-(3-methoxy-4-nitro-phenyl)-7-oxa-3-aza-bicyclo[4.1.0]heptane-3-carboxylic acid tert-butyl ester | 0.542 mmol, 190 mg | C(C)(C)(C)OC(=O)N1CC2OC2(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C17H22N2O6
solvent | methanol | 10.00 mL | CO | CH4O
catalyst | palladium on carbon | 40.00 mg | [Pd] | Pd
product | (±)-(3R,4S)-4-(4-amino-3-methoxy-phenyl)-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 173 mg, 99% | C(C)(C)(C)OC(=O)N1C[C@@H]([C@@H](CC1)C1=CC(=C(C=C1)N)OC)O | C17H26N2O4
